US05099020
Diethyl [1-(2-ethoxy)ethoxypent-4-yl]propylmalonate
57 mg (0.17 mmol) of diethyl 2-[1-(2-ethoxy)ethoxypent-4-yl]-2-allylmalonate prepared above was dissolved in 10 mL absolute ethanol and combined with 6 mg (56 umol) 10% palladium on carbon. The mixture was flushed with hydrogen and hydrogenated for 4 hrs at 44 psi. Removal of the catalyst by filtration through Celite® brand diatomite and concentration provided 53 mg of a colorless oil.

reactant | diethyl 2-[1-(2-ethoxy)ethoxypent-4-yl]-2-allylmalonate | 0.17 mmol, 57 mg | CCOC(C)OCC(CCC)C(C(=O)OCC)(C(=O)OCC)CC=C | C19H34O6
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 56 umol, 6 mg | [Pd] | Pd
product | Diethyl [1-(2-ethoxy)ethoxypent-4-yl]propylmalonate | 53 mg | CCOC(C)OCC(CCC)C(C(=O)OCC)(C(=O)OCC)CCC | C19H36O6
